US08809267B2
Commercially available L-cyclopropyl glycine (500.8 mg, 4.35 mmol) was dissolved in CH3CN (30 mL), H2O (4 mL), and MeOH (4 mL). Carbonic acid 4-nitro-phenyl ester 2,2,2-trifluoro-1,1-dimethyl-ethyl ester (1.91 g, 6.52 mmol) was added followed by DIPEA (1.89 mL, 10.9 mmol). The reaction was allowed to stir at room temperature for three days. The reaction was acidified and extracted with EtOAc (3×50 mL). The organic layer was mixed with saturated NaHCO3 solution (100 mL) and the layers were separated. The aqueous layer was extracted with EtOAc (30 mL) and the organic was discarded. The aqueous layer was acidified with HCl (1N) and extracted with EtOAc (3×50 mL). The organic layer was washed with brine (30 mL), dried over Na2SO4, and concentrated to produce cyclopropyl-(2,2,2-trifluoro-1,1-dimethyl-ethoxycarbonylamino)-acetic acid (797.6 mg, 68%). LCMS found 267.7 [M−H]−.

reactant | L-cyclopropyl glycine | 4.35 mmol, 500.8 mg | C1CC1[C@@H](C(=O)O)N | C5H9NO2
reactant | H2O | 4 mL | O | H2O
reactant | Carbonic acid 4-nitro-phenyl ester 2,2,2-trifluoro-1,1-dimethyl-ethyl ester | 6.52 mmol, 1.91 g | FC(C(C)(C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C11H10F3NO5
reactant | DIPEA | 10.9 mmol, 1.89 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | MeOH | 4 mL | CO | CH4O
product | cyclopropyl-(2,2,2-trifluoro-1,1-dimethyl-ethoxycarbonylamino)-acetic acid | 797.6 mg, 68% | C1(CC1)C(C(=O)O)NC(=O)OC(C(F)(F)F)(C)C | C10H14F3NO4
